2138-11-20 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2138-11-19**] 11:16 AM
 INVASIVE VENTILATION - START [**2138-11-19**] 11:30 AM
 PICC LINE - STOP [**2138-11-19**] 07:30 PM
 FEVER - 104.4
C - [**2138-11-19**] 06:00 PM
   (no events overnight)
   --Patient spiking throughout day to 104; now on cooling blanket
   --Spoke to HCP [**Name (NI) **] yesterday
   --CT+ ordered to evaluate for PNA and/or loculated effusion
   This AM, patient reports stable neck and shoulder pain that he has had
   since his accident.  He also states that he does not want to take much
   pain medication, but the oxycodone does not do much for him.  Fevers
   made him uncomfortable overnight, but otherwise feeling well with
   breathing comfortable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2138-11-19**] 08:01 PM
   Vancomycin - [**2138-11-19**] 09:01 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-19**] 08:02 PM
   Lorazepam (Ativan) - [**2138-11-20**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-20**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 39.2
C (102.6
   HR: 69 (65 - 80) bpm
   BP: 110/46(60) {107/45(60) - 121/58(71)} mmHg
   RR: 7 (7 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,460 mL
                                                                    331 mL
   PO:
             TF:
                                                                    180 mL
                                                                    258 mL
   IVF:
                                                                    580 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    500 mL
   Urine:
                                                                    890 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,270 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 750 (679 - 750) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: 7.50/35/90.[**Numeric Identifier 299**]/25/3
   Ve: 12.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   GENERAL: Middle-aged male lying in bed with [**Location (un) 408**] J collar in place, in
   NAD
   HEENT: Normocephalic, J collar in place. No scleral icterus.
   PERRLA/EOMI. dry MM. white tongue s/p mouth care.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**]. JVP difficult to assess with [**Location (un) 408**] J collar.
   LUNGS: diffusely coarse breath sounds, good air movement biaterally, no
   wheeze or crackles.
   ABDOMEN: +BS, distended, non-tender.
   EXTREMITIES: Anisarcic in all extremities. 2+ dorsalis pedis/ posterior
   tibial pulses.
   SKIN: L thigh incision extending from hip to below knee with minimal
   surrounding erythema, no fluctuance or drainage
   NEURO: A&Ox3. Appropriate. Able to wiggle toes bilaterally, minimal
   movement of right wrist, no other active movement in his extremities.
   Labs / Radiology
   271 K/uL
   9.5 g/dL
   120 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   25 mg/dL
   107 mEq/L
   138 mEq/L
   28.4 %
   8.2 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
   WBC
   6.8
   8.2
   Hct
   30.2
   28.4
   Plt
   279
   271
   Cr
   0.7
   0.6
   TropT
   0.03
   TCO2
   28
   Glucose
   131
   120
   Other labs: PT / PTT / INR:14.1/37.6/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:7.7
   mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR [**11-19**]: Acute moderate pulmonary edema with bibasilar
   compressive
   atelectasis. Interval increase in bilateral pleural effusions, greater
   on the
   left.
   CXR this AM: not significantly changed
   Microbiology: U/A [**11-20**] neg
   Blood Cx [**11-19**] x 3 pend
   Urine Cx [**11-19**] pend
   Legionella Ag neg
   Picc line tip Cx [**11-19**] pend
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever.
   # Leukocytosis/Fever: Concern for infection vs inflammatory response.
   Only localizing symptom is hypoxia with subjective difficulty
   breathing.  No cough.  CXR is consistent with volume overload vs
   possible multifocal infiltrates/pneumonia.  No urinary symptoms.  Blood
   cultures are pending.  Received broad spectrum antibiotics in the ED.
   Currently hemodynamically stable.  Was intermittently febrile during
   his last admission to 103 with no found source of infection.  Nasal flu
   swab was negative.  Also concern for line infection with PICC line in
   place.  Picc line removed, with patient continuing to have fevers
   overnight.  Other cause of fever might be central source given damage
   to spinal cord or serotonin syndrome (possibly from paxil).
   - will cont vanco, cefepime, and levo for now
   - may need BAL to obtain good sputum sample
   - cont to monitor fever curve and WBC trend
   - f/u CT chest
   # Hypoxia:  Increased O2 requirement associated with fever and
   leukocytosis is concerning for pneumonia.  CXR was read as moderate
   pulmonary edema and interval worsening of his bilateral pleural
   effusions.
   - Continue current vent settings unless clinical change; check ABG
   today
   - Diurese today with goal 2L neg
   - CT chest this AM to better evaluate for consolidation versus
   loculated effusions
   - if unable to get a sputum sample, may need to do a BAL
   - albuterol MDI
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   # s/p L femur ORIF:  Incision is erythematous, could be consistent with
   cellulitis versus irritation from staples.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # R common femoral DVT:  INR is still subtherapeutic (1.3) despite high
   dose coumadin.  Being bridged with lovenox. IVC filter in place.
   - hold coumadin for now
   - cont lovenox bridge until INR within goal of [**12-31**]
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil but decrease dose to 50 daily
   - will re-address other medications with the patient as he stabilizes
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-20**] 02:23 AM 40 mL/hour
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2138-11-19**] 11:16 AM
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: Lovenox, IVC filter
   Stress ulcer: None
   VAP:
   Comments: bowel regimen, pain control with morphine IV prn, nicotine
   patch
   Communication:  Comments: HCP [**Name (NI) **] [**Name (NI) 10413**] [**Telephone/Fax (1) 10665**]
   Code status: Full code
   Disposition: ICU for now

2138-11-20 12:00:00 Physician Attending Progress Note
Chief Complaint: fevers, chronic resp failure with increasing O2
   requirement
   HPI:
   24 Hour Events:
 PICC LINE - START [**2138-11-19**] 11:16 AM
 INVASIVE VENTILATION - START [**2138-11-19**] 11:30 AM
 PICC LINE - STOP [**2138-11-19**] 07:30 PM
 FEVER - 104.4
C - [**2138-11-19**] 06:00 PM
   febrile overnight
   tolerated PSV overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-19**] 09:01 PM
   Cefipime - [**2138-11-20**] 08:12 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-19**] 08:02 PM
   Lorazepam (Ativan) - [**2138-11-20**] 08:12 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-20**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 38.5
C (101.3
   HR: 71 (65 - 80) bpm
   BP: 92/72(77) {92/45(60) - 121/72(77)} mmHg
   RR: 20 (7 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,460 mL
                                                                    601 mL
   PO:
             TF:
                                                                    180 mL
                                                                    435 mL
   IVF:
                                                                    580 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                  1,040 mL
   Urine:
                                                                    890 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,270 mL
                                                                   -439 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 747 (601 - 750) mL
   PS : 18 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.50/35/90.[**Numeric Identifier 299**]/25/3
   Ve: 10.8 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: pitting edema
   Skin:  Warm
   Neurologic: Attentive and appropriate, quadreplegic
   Labs / Radiology
   9.5 g/dL
   271 K/uL
   120 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   25 mg/dL
   107 mEq/L
   138 mEq/L
   28.4 %
   8.2 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
   WBC
   6.8
   8.2
   Hct
   30.2
   28.4
   Plt
   279
   271
   Cr
   0.7
   0.6
   TropT
   0.03
   TCO2
   28
   Glucose
   131
   120
   Other labs: PT / PTT / INR:14.1/37.6/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:7.7
   mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: u/a  neg
   Imaging: CT reviewed
sm b effusions, bb consolidation, scattered GGO
   concerning for multifocal pna and/or pulm edema
   Microbiology: bl ngtd
   u cx ngtd
   picc tip--pending
   u lg neg
   no sputum sample
   Assessment and Plan
   Fever, hypoxia, leukocytosis:
   Multiple potential infectious sources in this pt with recent prolonged
   hospital course including lungs, urine, picc line.  CXR and CT
   appearance concerning for pulm edema and possibly an evolving
   multifocal infectious process.  Noting that pt was having high fevers
   during his recent hospitalization without source identified despite
   extensive evaluation, ? whether fevers may be [**12-30**] a neurologic/central
   process from spinal cord injury as component of autonomic
   dysregulation.  ? serotonin syndrome though without evidence of clonus.
   Agree with plan to continue broad empiric antbx with cefe/vanco/levo
   evaluating for infectious etiologies with pan cx, bronch for BAL if
   unable to obtain adequate tracheal sample, picc line has been removed.
    Flu neg. Has high resp drive in setting of fever, hypoxemia and known
   PEs, but appears comfortable on PSV.  Will repeat  ABG. Given fevers,
   we held on diuresis overnight, but despite fevers he is making good
   urine and maintaining adequate MAPS.  Suspect that volume overload is
   contributing to his o2 needs and will diurese for goal neg fluid
   balance.  J collar as per neurosurgery. Continue lovenox for known DVT
   and ? PE from recent admit, though would hold coumadin at this time,
   not therapeutic and may require procedures.  Has IVC filter.  Will
   optimize pain control. Change his paxil to once daily dosing.  Full
   code.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-20**] 08:13 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-11-19**] 11:16 AM
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-11-21 07:54:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress, fevers
   24 Hour Events:
   -Chest CT prelim: Findings consistent with multifocal infection
   accompanied by bilateral small pleural effusions.
   -Sputum Cx sent, no BAL today because sputum cx looked good.
   -lasix 20 IV x2 with great output
   -decreased FiO2 from 50-40%
   -increased secretions in early morning; culture sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-20**] 10:15 AM
   Cefipime - [**2138-11-20**] 08:03 PM
   Vancomycin - [**2138-11-20**] 09:10 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-20**] 08:04 PM
   Furosemide (Lasix) - [**2138-11-20**] 10:18 PM
   Lorazepam (Ativan) - [**2138-11-21**] 01:31 AM
   Morphine Sulfate - [**2138-11-21**] 05:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-21**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 72 (60 - 80) bpm
   BP: 106/50(63) {92/48(59) - 114/72(77)} mmHg
   RR: 15 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,116 mL
                                                                    624 mL
   PO:
             TF:
                                                                  1,006 mL
                                                                    505 mL
   IVF:
                                                                    890 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                    830 mL
   Urine:
                                                                  3,700 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,584 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 642 (601 - 807) mL
   PS : 18 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.46/37/65/26/2
   Ve: 16.1 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, and event, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   241 K/uL
   9.2 g/dL
   126 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   24 mg/dL
   103 mEq/L
   136 mEq/L
   28.1 %
   5.7 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
   WBC
   6.8
   8.2
   5.7
   Hct
   30.2
   28.4
   28.1
   Plt
   279
   271
   241
   Cr
   0.7
   0.6
   0.5
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   Other labs: PT / PTT / INR:13.7/29.0/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:7.8
   mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Microbiology: Gram stain of sputum from [**11-20**] prelim gram positive
   cocci in pairs
   Blood cultures pending
   Assessment and Plan
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever.
   # Leukocytosis/Fever: Concern for infection vs inflammatory response.
   Only localizing symptom is hypoxia with subjective difficulty
   breathing.  No cough.  CT scan consistent with multifocal infection
   with small pulmonary effusions.  No urinary symptoms.  Blood cultures
   are pending.  Currently hemodynamically stable.  Nasal flu swab
   negative.  Also concern for line infection with PICC line in place.
   Picc line removed, with patient continuing to have fevers overnight.
   Other cause of fever might be central source given damage to spinal
   cord.  Unlikely serotonin syndrome from paxil
   - will cont vanco, cefepime, and levo for now
   - Hold off on BAL for now
   - cont to monitor fever curve and WBC trend
   # Hypoxia:  Increased O2 requirement associated with fever and
   leukocytosis is concerning for pneumonia.  CXR was read as moderate
   pulmonary edema and interval worsening of his bilateral pleural
   effusions.
   - Continue current vent settings unless clinical change; check ABG
   today
   - Continue gentle diuresis
   - albuterol MDI
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   # s/p L femur ORIF:  Incision is erythematous, could be consistent with
   cellulitis versus irritation from staples.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # R common femoral DVT:  INR is still subtherapeutic (1.3) despite high
   dose coumadin.  Being bridged with lovenox. IVC filter in place.
   - hold coumadin for now
   - cont lovenox bridge until INR within goal of [**12-31**]
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil but decrease dose to 50 daily
   - will re-address other medications with the patient as he stabilizes
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-20**] 02:23 AM 40 mL/hour
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2138-11-19**] 11:16 AM
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: Lovenox, IVC filter
   Stress ulcer: None
   VAP:
   Comments: bowel regimen, pain control with morphine IV prn, nicotine
   patch
   Communication:  Comments: HCP [**Name (NI) **] [**Name (NI) 10413**] [**Telephone/Fax (1) 10665**]
   Code status: Full code
   Disposition: ICU for now

2138-11-21 12:43:00 Physician Attending Progress Note
Chief Complaint: acute respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with C3-5 fx, CVT/PE, chronic resp failure on trach-
   admitted with fevers/leukocytosis/hypoxia
   24 Hour Events:
 FEVER - 102.6
C - [**2138-11-21**] 06:00 AM
   Chest CT changes c/w multifocal infection
   Sputum culture  sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-21**] 07:55 AM
   Cefipime - [**2138-11-21**] 07:55 AM
   Levofloxacin - [**2138-11-21**] 10:05 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-11-20**] 10:18 PM
   Morphine Sulfate - [**2138-11-21**] 05:22 AM
   Enoxaparin (Lovenox) - [**2138-11-21**] 07:55 AM
   Lorazepam (Ativan) - [**2138-11-21**] 08:37 AM
   Other medications:
   duonebs,  colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-21**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39
C (102.2
   HR: 69 (60 - 80) bpm
   BP: 106/51(64) {94/42(54) - 109/69(77)} mmHg
   RR: 17 (8 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,116 mL
                                                                  1,466 mL
   PO:
             TF:
                                                                  1,006 mL
                                                                    847 mL
   IVF:
                                                                    890 mL
                                                                    474 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,135 mL
   Urine:
                                                                  3,700 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,584 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 674 (624 - 807) mL
   PS : 18 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: 7.46/37/65/26/2
   Ve: 10.5 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Well nourished, No acute distress, interactive
   Head, Ears, Nose, Throat: trach'd
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Lungs: coarse BS bilaterally ; decreased at left base
   CV: RRR
   Abd: soft, nontender, bs
   Skin:  no rash
   Neurologic: Responds to: commands
   Labs / Radiology
   9.2 g/dL
   241 K/uL
   126 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   24 mg/dL
   103 mEq/L
   136 mEq/L
   28.1 %
   5.7 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
   WBC
   6.8
   8.2
   5.7
   Hct
   30.2
   28.4
   28.1
   Plt
   279
   271
   241
   Cr
   0.7
   0.6
   0.5
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   Other labs: PT / PTT / INR:13.7/29.0/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:7.8
   mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Microbiology: sputum GS: GPC pairs, >25 PMN's, <10 sqE
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 QUADRIPLEGIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   51 yo male with C3-5 fx and quadriplegia, DVT/PE admitted with
   hypoxia/respiratory distress from PNA
   1.       Multifocal PNA: Fevers decreasing slightly with n
l WBC.
   Remains on broad coverage [**Last Name (LF) 1679**], [**First Name3 (LF) 124**] f/u temp/WBC trend and f/u sputum
   culture sensitivities
   2.       Chronic respiratory failure: ON PS ventilation with
   appropriate oxygenation, no changes
   3.       DVT/PE: s/p filter and on therpaeutic lovenox
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-21**] 12:07 AM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-11-19**] 11:16 AM
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2138-11-22 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**11-20**] sputum cx growing commensal organisms. [**11-21**] sample >10 epi's,
   not a valid sample.
   - headache much improved with ibuprofen.
   - Patient improved in PM, sleeping comfortably, oral secretions have
   improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-21**] 10:05 AM
   Cefipime - [**2138-11-21**] 07:47 PM
   Vancomycin - [**2138-11-21**] 08:49 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-21**] 07:54 PM
   Lorazepam (Ativan) - [**2138-11-22**] 12:22 AM
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:  None.
   Flowsheet Data as of  [**2138-11-22**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38
C (100.4
   HR: 59 (57 - 74) bpm
   BP: 97/52(63) {95/42(54) - 115/61(73)} mmHg
   RR: 12 (4 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,778 mL
                                                                    728 mL
   PO:
             TF:
                                                                  1,718 mL
                                                                    590 mL
   IVF:
                                                                    840 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                    760 mL
   Urine:
                                                                  2,900 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -122 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 526 (526 - 793) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 10.4 L/min
   Physical Examination
   Labs / Radiology
   245 K/uL
   8.9 g/dL
   155 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.3 mEq/L
   23 mg/dL
   108 mEq/L
   141 mEq/L
   27.6 %
   4.1 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   Hct
   30.2
   28.4
   28.1
   27.6
   Plt
   279
   271
   241
   245
   Cr
   0.7
   0.6
   0.5
   0.5
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   Other labs: PT / PTT / INR:13.2/32.6/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Microbiology: GRAM STAIN (Final [**2138-11-21**]):
         <10 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
   [**2138-11-19**] 7:50 pm CATHETER TIP-IV      Source: PICC.
      WOUND CULTURE (Preliminary):    No significant growth.
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever.
   # Leukocytosis/Fever: Source most likely multifocal infiltrates in
   lungs.  Temperature is still elevated not as markedly elevated as
   previously.  Plan to continue current treatment for pneumonia.
   - will cont vancomycin, cefepime, and levofloxacin for [**6-6**] day
   course.  Day #1 for antibiotics is [**11-19**].
   - Will need to repeat sputum culture or try BAL for accurate organism
   speciation
   - cont to monitor fever curve and WBC trend
   # Hypoxia:  Increased O2 requirement associated with fever and
   leukocytosis is concerning for pneumonia.  CXR was read as moderate
   pulmonary edema and interval worsening of his bilateral pleural
   effusions.
   - Respiratory therapy has been able to wean vent settings
   - albuterol MDI
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   # s/p L femur ORIF:  Incision is erythematous, could be consistent with
   cellulitis versus irritation from staples.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # R common femoral DVT:  Patient
s INR was not bumping appropriately
   with coumadin.  He is now on Lovenox for DVT.
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil 50mg QD
   - will re-address other medications with the patient as he stabilizes
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-20**] 02:23 AM 40 mL/hour
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2138-11-19**] 11:16 AM
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: Lovenox, IVC filter
   Stress ulcer: None
   VAP:
   Comments: bowel regimen, pain control with morphine IV prn, nicotine
   patch
   Communication:  Comments: HCP [**Name (NI) **] [**Name (NI) 10413**] [**Telephone/Fax (1) 10665**]
   Code status: Full code
   Disposition: ICU for now

2138-11-22 13:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with left femur fracture, C3-5 contusion with quadraplegis,
   DVT/PE
   24 Hour Events:
 FEVER - 102.7
C - [**2138-11-21**] 10:00 AM
   Still febrile, but slowly improving
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-22**] 08:02 AM
   Cefipime - [**2138-11-22**] 08:02 AM
   Levofloxacin - [**2138-11-22**] 10:16 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-11-22**] 12:22 AM
   Enoxaparin (Lovenox) - [**2138-11-22**] 08:03 AM
   Other medications:
   Alb/atrovent, senna, vancomycin, nicotine patch, paxil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-22**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.4
C (101.1
   HR: 70 (57 - 70) bpm
   BP: 111/56(69) {97/48(59) - 115/61(73)} mmHg
   RR: 20 (4 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,778 mL
                                                                  1,567 mL
   PO:
             TF:
                                                                  1,718 mL
                                                                    950 mL
   IVF:
                                                                    840 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,320 mL
   Urine:
                                                                  2,900 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -122 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (490 - 851) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 14.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, Trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Lungs: scattered coarse BS, decreased at bases
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  no rashes
   Neurologic: Responds to: verbal commands, Movement: purposeful, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   245 K/uL
   155 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.3 mEq/L
   23 mg/dL
   108 mEq/L
   141 mEq/L
   27.6 %
   4.1 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   Hct
   30.2
   28.4
   28.1
   27.6
   Plt
   279
   271
   241
   245
   Cr
   0.7
   0.6
   0.5
   0.5
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   Other labs: PT / PTT / INR:13.2/32.6/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Sputum GS: contaminated
   Assessment and Plan
 IMPAIRED PHYSICAL MOBILITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 QUADRIPLEGIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   51 yo male with femeur fracture s/p ORIF, C3-5 spinal cord contusion
   with quadraplegia, DVT/PE s/p IVC filter admitted with
   fevers/leukocytosis from mulitfocal PNA
   1.       Multifocal VAP: appears to be improving, with normalized WBC
   and decreased oxygen requirement. Still febrile, but fevers decreasing.
   On Vanc/Cefipime, f/u cultures
   2.       Hypoxic acute resp failure: improving, continue mechanical
   ventilation
   3.       C3-5 contusion: continue [**Location (un) 408**] J collar
   4.       DVT: on lovenox/IVC filter
   Rest of plan per ICU resident note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-22**] 03:49 AM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-11-19**] 11:16 AM
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer:
   VAP: HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2138-11-23 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
C - [**2138-11-22**] 08:00 PM
   --Sputum not a good sample and thrown out by lab.  We ordered another
   one
   --Patient had very small "tastes" of fruit shakes; his big issue today
   is not eating and wanting to take more PO's.
   --Started dilaudid IV for pain control (headaches and shoulder/back
   pain).  Might want to consider starting ultram as a narcotic sparing
   [**Doctor Last Name **].
   This AM, patient continues to have headache, but is unsure which of the
   pain medications work for him.  Did have some nausea yesterday, but is
   currently feeling fine.  States his breathing is comfortable and
   generally improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-22**] 10:16 AM
   Cefipime - [**2138-11-22**] 07:07 PM
   Vancomycin - [**2138-11-22**] 07:54 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-22**] 08:03 AM
   Morphine Sulfate - [**2138-11-22**] 03:42 PM
   Hydromorphone (Dilaudid) - [**2138-11-22**] 10:08 PM
   Lorazepam (Ativan) - [**2138-11-22**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-23**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38
C (100.4
   HR: 60 (58 - 70) bpm
   BP: 89/45(55) {89/45(55) - 111/57(69)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,779 mL
                                                                    558 mL
   PO:
             TF:
                                                                  1,799 mL
                                                                    486 mL
   IVF:
                                                                    840 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                    720 mL
   Urine:
                                                                  2,115 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    664 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (480 - 851) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 10.5 L/min
   Physical Examination
   General:  Pleasant man, lying in bed on ventilator
   Chest:  Coarse breath sounds anteriorly
   Cardiac:  Regular rate and rhythm; normal S1 and S2
   Abdomen:  Soft, distended, non-tender, G-tube in place
   Ext:  1+ edema throughout, left LE incision site healing well without
   erythema or fluctuance
   Labs / Radiology
   247 K/uL
   8.9 g/dL
   124 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   22 mg/dL
   104 mEq/L
   137 mEq/L
   27.4 %
   4.6 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   Plt
   279
   271
   241
   245
   247
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   124
   Other labs: PT / PTT / INR:13.2/32.6/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Vanco 10.5
   Imaging: CXR this AM
   Microbiology: [**11-19**] Blood Cx pending
   [**11-20**] Sptutum:
   GRAM STAIN    1+ GPCs in Pairs, Cx with       SPARSE GROWTH Commensal
   Respiratory Flora.
   [**11-21**] sputum cancelled (poor sample)
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever.
   # Leukocytosis/Fever: Source most likely multifocal infiltrates in
   lungs.  However, patient continues to spike on antibiotics; fever
   likely related to spinal cord injury.  Temperature continues to be
   elevated, but is improving.
   - will cont vancomycin, cefepime, and levofloxacin for VAP.  Day #1 for
   antibiotics is [**11-19**].
   - f/u final sputum cx
   - cont to monitor fever curve and WBC trend
   .
   # Respiratory failure:  Now on minimal ventilator settings with patient
   comfortable and satting well.  Will continue to wean pressure support
   today with possible trial of trach mask today.
   - continue abx as above
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain, but intermittently refuses pain medications.  Likely
   depressive component to pain as well.
   - toradol and tramadol prn for now; will try to minimize narcotic usage
   - social work consult
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   - will contact [**Name (NI) **], as patient stating he has questions about
   prognosis.
   # s/p L femur ORIF:  Incision is healing well.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # R common femoral DVT:  Lovenox, IVC filter
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil 50mg QD
   - will re-address other medications with the patient as he stabilizes
   ICU Care
   Nutrition:
   TF: replete with fiber full strength
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2138-11-19**] 11:16 AM
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: Lovenox, IVC filter
   Stress ulcer: H2 blocker
   VAP:
   Comments: Pain control with toradol and tramadol prn
   Communication:  Comments: patient and HCP [**Name (NI) **] [**Name (NI) 10413**]
   [**Telephone/Fax (1) 10665**]
   Code status: Full code
   Disposition: ICU for now

2138-11-23 12:20:00 Physician Attending Progress Note
Chief Complaint: fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with femur frx s/p ORIF, DVT/PE, C3-5 contusion with
   quadriplegia
   24 Hour Events:
 FEVER - 102.0
C - [**2138-11-22**] 08:00 PM
   PS decreased to 8
                          History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-23**] 07:57 AM
   Cefipime - [**2138-11-23**] 07:58 AM
   Levofloxacin - [**2138-11-23**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2138-11-22**] 03:42 PM
   Lorazepam (Ativan) - [**2138-11-22**] 11:10 PM
   Enoxaparin (Lovenox) - [**2138-11-23**] 07:58 AM
   Hydromorphone (Dilaudid) - [**2138-11-23**] 10:54 AM
   Other medications:
   colace, paxil, pepcid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-23**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.5
C (101.3
   HR: 64 (58 - 65) bpm
   BP: 100/50(62) {89/43(54) - 105/57(67)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,780 mL
                                                                  1,467 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    906 mL
   IVF:
                                                                    840 mL
                                                                    471 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                  1,260 mL
   Urine:
                                                                  2,115 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    665 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 472 (472 - 640) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach'd; [**Location (un) 408**] J collar
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, mildly distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   247 K/uL
   124 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   22 mg/dL
   104 mEq/L
   137 mEq/L
   27.4 %
   4.6 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   Plt
   279
   271
   241
   245
   247
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   124
   Other labs: PT / PTT / INR:13.2/32.6/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: no CXR yet this morning
   Microbiology: sputum [**11-20**]: GS 1+GPc's in prs, cx commensal resp flora
   [**11-21**] sputum cancelled due to contamination
   Assessment and Plan
 IMPAIRED PHYSICAL MOBILITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 QUADRIPLEGIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   51 yo male with femur frx s/p ORIF, DVT/PE, C3-5 contusion with
   quadriplegia admitted with hypoxia/fevers
   1. Fevers: Antibiotic day 5 for multifocal PNA- still febrile, some of
   which may be due to cord contusion. Appears to be responding to PNA
   treatment with decreased WBC, resolution of hypoxia. Continue abx,
   tailor if (+) cultures return.
   2. Chronic respiraoty failure: tolerating vent wean - will drop to PSV
   [**4-1**]
   3. C3-5 contusion: On [**Location (un) **] J collar
   4. DVT: on lovenox
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-23**] 06:27 AM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-11-19**] 11:16 AM
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: h2 blocker
   VAP: oral care, elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2138-11-24 07:29:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
 FEVER - 101.3
C - [**2138-11-23**] 04:00 PM
   [**11-23**]:
   - was on [**4-1**], doing great until had panic/anxiety attack per nursing
   around 5 pm.  Gave ativan and increased PS and calmed down.  PS
   decreased from 12 to 10 overnight, ativan overnight for anxiety
   - had BM.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-23**] 10:00 AM
   Cefipime - [**2138-11-23**] 07:45 PM
   Vancomycin - [**2138-11-23**] 09:00 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-23**] 07:58 AM
   Hydromorphone (Dilaudid) - [**2138-11-23**] 02:45 PM
   Lorazepam (Ativan) - [**2138-11-24**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   patient reports pain in back of neck, well-controlled.  does report
   feeling warm/feverish.  no other complaints.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2138-11-24**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.3
C (100.9
   HR: 58 (55 - 67) bpm
   BP: 104/58(69) {89/43(54) - 110/63(74)} mmHg
   RR: 21 (7 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,890 mL
                                                                    700 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    529 mL
   IVF:
                                                                    840 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                  1,050 mL
   Urine:
                                                                  2,765 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                   -349 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 531 (393 - 577) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, tracheostomy tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no murmurs,
   rubs, gallops
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Distended, PEG tube in place
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Purposeful, Tone: Normal, able
   to move distal lower extemity digits
   Labs / Radiology
   249 K/uL
   9.3 g/dL
   115 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   107 mEq/L
   142 mEq/L
   28.6 %
   5.2 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   5.2
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   28.6
   Plt
   279
   271
   241
   245
   247
   249
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   124
   115
   Other labs: PT / PTT / INR:13.2/32.6/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:8.3
   mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Imaging: CT chest [**2138-11-20**]:
   1. Findings consistent with multifocal infection, accompanied by small
   pleural effusions.
   2. Increased number of mediastinal lymph nodes, likely reactive.
   3. Nondisplaced rib fractures and C7 nondisplaced spinous process
   fracture.
   4. Mild splenomegaly.
   Microbiology: all culture data (-) to date
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever.
   # Fever: Source could be [**12-30**] multifocal infiltrates in lungs.  However,
   patient continues to spike on antibiotics; fever likely related to
   spinal cord injury.  Temperature continues to be elevated, but is
   improving.
   - will cont vancomycin, cefepime, and levofloxacin for VAP.  Day #1 for
   antibiotics is [**11-19**], today day [**5-5**]
   - f/u final sputum cx -> (-), contaminated with upper respiratory
   flora; repeated [**11-24**], f/u results
   - cont to monitor fever curve and WBC trend
   .
   # Respiratory failure:  Now on minimal ventilator settings with patient
   comfortable and satting well.  Will continue to wean pressure support
   today with possible re-trial of trach mask today.  Patient falied
   yesterday [**12-30**] anxiety.  Patient was on vent at rehab prior to
   admission.
   - continue abx as above
   - repeat AP portable chest film today
   - PMV this morning
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain, but intermittently refuses pain medications.  Likely
   depressive component to pain as well.
   - toradol, tramadol prn for now; will try to minimize narcotic usage
   (dilaudid, oxycodone)
   - social work consult
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   - will contact [**Name (NI) **], as patient stating he has questions about
   prognosis.
   # s/p L femur ORIF:  Incision is healing well.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # R common femoral DVT:  Lovenox, IVC filter
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil 50mg QD
   - will re-address other medications with the patient as he stabilizes
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-23**] 07:46 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   18 Gauge - [**2138-11-23**] 05:04 PM
   Prophylaxis:
   DVT:  enoxaparin
   Stress ulcer:  famotidine
   VAP:  cefepime, levofloxacin, vancomycin
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  screen for return to rehab ([**Hospital1 **])

2138-11-24 12:01:00 Physician Attending Progress Note
Chief Complaint: Fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.3
C - [**2138-11-23**] 04:00 PM
   Patient maintained on PSV support
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-23**] 10:00 AM
   Cefipime - [**2138-11-24**] 07:25 AM
   Vancomycin - [**2138-11-24**] 08:35 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2138-11-23**] 02:45 PM
   Lorazepam (Ativan) - [**2138-11-24**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2138-11-24**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.5
C (99.5
   HR: 57 (55 - 67) bpm
   BP: 108/60(72) {91/46(58) - 110/63(74)} mmHg
   RR: 17 (7 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,890 mL
                                                                  1,503 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    876 mL
   IVF:
                                                                    840 mL
                                                                    467 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                  1,770 mL
   Urine:
                                                                  2,765 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    125 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 575 (393 - 577) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 11.1 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, PEG in
   place
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, can move toes
   bilaterally
   Labs / Radiology
   9.3 g/dL
   249 K/uL
   115 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   107 mEq/L
   142 mEq/L
   28.6 %
   5.2 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   5.2
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   28.6
   Plt
   279
   271
   241
   245
   247
   249
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   124
   115
   Other labs: PT / PTT / INR:13.2/32.6/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:8.3
   mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR-Trach in place, right side without focal infiltrate, LLL
   opacity seen consistent with collapse.
   CT-Diffuse ground glass opacities seen in all lobes. atelectasis in LLL
   area with multi-focal opacities in RLL region consistent with pneumonia
   and collapse.
   Assessment and Plan
   51 yo male with C3 fracture and subsequent quadriplegia now with
   readmission from rehab with recurrent and signfiicant fever.  This is
   in the setting of minimal change in WBC count, no evidence of bandemia
   and no obvious culture results being seen as explanatory at this time.
   This does leave DVT possible in addition to alternative infectious
   sources.
   1)Fever-Quite convincing imaging from CT scan for significant pulmonary
   infection.
   -For VAP=Vanco/Cefepime/Levoflox for 8 day course at minimum based upon
   culture results
   -Will follow up culture results from sputum to refine coverage
   -Flu screen negative
   -Will need to remain vigilant for alteranative sources
   2)Respiratory Failure-
   -Will continue PSV and wean as tolerate
   -Continue with PMV trials across time limited by secretions
   3)Quadriplegia-
   -PT for support going forward
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-24**] 09:06 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   18 Gauge - [**2138-11-23**] 05:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2138-11-25 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - decreased BP O/N to 80s/40s, received 500cc x 2 and 1000cc boluses.
   UOP was 15cc/hr, mental status intact. Had received Dilaudid, will try
   Ultram/lidocaine for pain instead.
   This AM patient reports feeling well despite fever.  Denies chills,
   nausea, sob.  States breathing comfortable on vent.  Would like us to
   contact his PCP and outpatient orthopedist regarding his current
   clinical status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-24**] 10:40 AM
   Cefipime - [**2138-11-24**] 08:20 PM
   Vancomycin - [**2138-11-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-11-24**] 12:45 PM
   Hydromorphone (Dilaudid) - [**2138-11-24**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-25**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 102.3 this AM
   Tcurrent: 102.3
   HR: 66 (51 - 73) bpm
   BP: 95/46(57) {87/38(50) - 108/65(72)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,851 mL
                                                                  2,630 mL
   PO:
             TF:
                                                                  1,652 mL
                                                                    556 mL
   IVF:
                                                                    977 mL
                                                                  2,074 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    310 mL
   Urine:
                                                                  2,840 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     11 mL
                                                                  2,320 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 554 (464 - 664) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 11.7 L/min
   Physical Examination
   General:  Pleasant man, lying in bed on ventilator
   Chest:  Coarse breath sounds anteriorly, rhonchi that clear partially
   with cough
   Cardiac:  Regular rate and rhythm; normal S1 and S2
   Abdomen:  Soft, distended, non-tender, G-tube in place
   Ext:  1+ edema throughout, left LE incision site healing well without
   erythema or fluctuance
   Labs / Radiology
   212 K/uL
   8.7 g/dL
   108 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   26 mg/dL
   104 mEq/L
   138 mEq/L
   26.7 %
   5.0 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   5.2
   5.0
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   28.6
   26.7
   Plt
   279
   271
   241
   245
   247
   249
   212
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   0.5
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   124
   115
   108
   Other labs: PT / PTT / INR:13.4/35.4/1.1, Ca++:8.0 mg/dL, Mg++:2.3
   mg/dL, PO4:4.1 mg/dL
   Vanco: 11.7
   Imaging: CXR [**11-24**]: In comparison with the study of [**11-21**], the
   tracheostomy tube
   remains in place. The retrocardiac opacification persists with some air
   bronchograms. Blunting of the costophrenic angles is consistent with a
   small pleural effusion. The right lung is quite clear. Pulmonary
   vasculature is
   essentially within normal limits.
   No new imaging this AM
   Microbiology: Blood Cx [**11-19**] pending
   Sputum Cx [**11-20**], 1+ GPC in pairs, Cx neg
   Sputum Cx [**11-24**] neg gram stain, Cx pend
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever.
   # Fever: Source could be [**12-30**] multifocal infiltrates in lungs.  However,
   patient continues to spike on antibiotics; fever possibly related to
   spinal cord injury.  Temperature elevated again this morning after
   several days of only low grade temps.  Today is day [**6-4**] of abx for VAP.
   - will stop vanc today in case that could be source of fevers; will
   stop cefepime/levo tomorrow on day 8
   - send blood and urine Cx this AM, sputum if possible
   - will continue to culture for high grade fevers and would like 48hrs
   neg prior to rehab transfer
   - cont to monitor fever curve and WBC trend
   - will BAL only if discrete infiltrate seen on CXR
   - if fevers continue after abx stopped with no source, would consider
   CT torso to evaluate for intra-abd source of infection
   .
   # Respiratory failure:  Now on minimal ventilator settings with patient
   comfortable and satting well.  Will continue to wean pressure support
   today with possible re-trial of trach mask today.  Patient falied prior
   trials [**12-30**] anxiety.  Patient was on vent at rehab prior to admission.
   - will speak with outpatient psychiatrist and restart [**Month/Day (2) 2509**] psych meds
   to minimize patient
s anxiety
   - continue abx as above
   - PMV as tolerated
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain, but intermittently refuses pain medications.  Likely
   depressive component to pain as well.
   - toradol, tramadol and lidocaine patch prn for now; will try to
   minimize narcotic usage (dilaudid, oxycodone)
   - social work consult
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   # s/p L femur ORIF:  Incision is healing well.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil 50mg QD
   - contact [**Name (NI) 2509**] psychiatrist and adjust meds as above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-25**] 12:23 AM 75 mL/hour
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   18 Gauge - [**2138-11-23**] 05:04 PM
   Prophylaxis:
   DVT: lovenox, IVC filter
   Stress ulcer: H2 blocker
   VAP:
   Comments: bowel regimen, pain control with tramadol, toradol and
   lidocaine patch
   Communication:  Comments: patient and HCP [**Name (NI) **] [**Name (NI) 10413**]
   [**Telephone/Fax (1) 10665**]
   Code status: Full code
   Disposition: ICU for now, screening for return to rehab likely within
   the next few days

2138-11-25 11:35:00 Physician Attending Progress Note
Chief Complaint: Fever
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with recurrent and persistent fevers to 102.3
   -No evidence of tachycardia or hypotension
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2138-11-25**] 08:04 AM
   Vancomycin - [**2138-11-25**] 08:04 AM
   Levofloxacin - [**2138-11-25**] 10:01 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-11-24**] 12:45 PM
   Hydromorphone (Dilaudid) - [**2138-11-24**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Flowsheet Data as of  [**2138-11-25**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 39.1
C (102.3
   HR: 65 (51 - 73) bpm
   BP: 105/52(65) {87/38(50) - 105/65(71)} mmHg
   RR: 35 (11 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  2,851 mL
                                                                  3,352 mL
   PO:
             TF:
                                                                  1,652 mL
                                                                    831 mL
   IVF:
                                                                    977 mL
                                                                  2,461 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    635 mL
   Urine:
                                                                  2,840 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     11 mL
                                                                  2,717 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (338 - 664) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 12.6 L/min
   Physical Examination
   Head, Ears, Nose, Throat: trach in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
patient able to
   move lower extremities with feet and hands
   Labs / Radiology
   8.7 g/dL
   212 K/uL
   108 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   26 mg/dL
   104 mEq/L
   138 mEq/L
   26.7 %
   5.0 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   5.2
   5.0
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   28.6
   26.7
   Plt
   279
   271
   241
   245
   247
   249
   212
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   0.5
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   124
   115
   108
   Other labs: PT / PTT / INR:13.4/35.4/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:66.1 %, Lymph:27.3 %,
   Mono:5.6 %, Eos:0.5 %, Lactic Acid:1.4 mmol/L, LDH:430 IU/L, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Microbiology: Sputum-[**11-20**]--1+ GPC's on Gram stain
   no new culture results positive
   Assessment and Plan
   51 yo male with quadriplegia following MVC triggered by syncope.
   Patient has had some improvement in motor function and now admitted
   with fever, hypoxia and concern for ventilator associated pneumonia.
   He has had continued fevers without over obvious systemic insult being
   seen with source of fevers [**Last Name (un) 760**] possibly central rather than with
   persistent and significant bacterial infection at this time.
   1) FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)-
   -For possible VAP--Vanco/Levoflox/Cefepime for 8 day course (as long as
   GNR not seen dominantly on culture results)
   -Will continue to culture for fever elevation but do not see clear
   evidence that this is primarily systemic insult from infection
   -Will follow cultures for 48 hours prior to return to rehab
   -Will minimize potential offending medications
will move to D/C
   antibiotics as we are now at 48 hours of cultures negative and 7 days
   of antibiotics in place.  What we will do is move to D/C antibiotics
   with course completed and will D/C vanco today
   -Vanco off today
   -BAL if we have an obvious target in regards to infiltrate
   2)Respiratory Failure-
   -Wil continue with trach mask trials
   -Will continue to reassure and provide ativan prior to trach mask
   trials
   -Will return to complete bipolar disorder regimen
   3)Quadriplegia-
   -Continue with PT
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-25**] 12:23 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   18 Gauge - [**2138-11-23**] 05:04 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2138-11-26 06:57:00 Physician Resident Progress Note
Chief Complaint: got Haldol x 2 for anxiety, failed PSV 2/2 tachypnea
   and was put back on AC
   24 Hour Events:
 BLOOD CULTURED - At [**2138-11-25**] 08:03 AM
   off left piv
 URINE CULTURE - At [**2138-11-25**] 08:03 AM
 EKG - At [**2138-11-25**] 08:40 PM
 STOOL CULTURE - At [**2138-11-25**] 10:01 PM
 FEVER - 103.2
F - [**2138-11-26**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-25**] 08:04 AM
   Levofloxacin - [**2138-11-25**] 10:01 AM
   Cefipime - [**2138-11-25**] 08:09 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-25**] 08:09 PM
   Enoxaparin (Lovenox) - [**2138-11-25**] 08:09 PM
   Lorazepam (Ativan) - [**2138-11-26**] 05:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-26**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 39.6
C (103.2
   HR: 72 (63 - 81) bpm
   BP: 113/58(71) {100/50(63) - 124/68(80)} mmHg
   RR: 25 (18 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  4,565 mL
                                                                    558 mL
   PO:
                  TF:
                                                                  1,810 mL
                                                                    518 mL
   IVF:
                                                                  2,620 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                  1,140 mL
   Urine:
                                                                  2,375 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,190 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (338 - 500) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 140
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 11.6 L/min
   Physical Examination
   General:  Pleasant man, lying in bed on ventilator
   Chest:  Clear  breath sounds anteriorly
   Cardiac:  Regular rate and rhythm; normal S1 and S2
   Abdomen:  Soft, distended, non-tender, G-tube in place
   Ext:  1+ edema throughout, left LE incision site healing well without
   erythema or fluctuance
   Labs / Radiology
   213 K/uL
   9.4 g/dL
   120 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.2 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   28.4 %
   4.6 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   5.2
   5.0
   4.6
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   28.6
   26.7
   28.4
   Plt
   279
   271
   241
   245
   247
   249
   212
   213
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   124
   115
   108
   120
   Other labs: PT / PTT / INR:13.4/35.4/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:43.0 %, Band:1.0 %,
   Lymph:37.0 %, Mono:5.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:430
   IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever.
   .
   # Respiratory failure:  Patient continues to fail PSV trials secondary
   to tachypnea, likely due to anxiety and poor inspiratory capacity.
   - cont Haldol as per psych consult, check daily EKG
   - will  again attempt to speak with outpatient psychiatrist and restart
   [**Year (4 digits) 2509**] psych meds to minimize patient
s anxiety
   - continue AC for today given testing
   .
   # Fever: Patient continues to spike on broad spectrum antibiotics;
   fever less likely related to spinal cord injury since not central
   injury/head trauma. Pt was afebrile prior to previous discharge, so
   cannot make this diagnosis of exclusion yet. Cannot rule out drug
   fever, and have been tapering antibiotics as possible. VAP course
   completes today, will monitor if D/Cing abx resolves fevers. CXR
   unchanged. Will seek alternative sources of infection today including
   intraabdominal abscess or epidural abscess, or endocarditis.
   - CT A/P with contrast
   -MRI C, T L spine
   - TTE
   - f/u cx
   - will continue to culture for high grade fevers once daily, would like
   48hrs neg prior to rehab transfer
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain, but intermittently refuses pain medications.  Likely
   depressive component to pain as well.
   - toradol, tramadol and lidocaine patch prn for now; will try to
   minimize narcotic usage (dilaudid, oxycodone)
   - social work consult
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   # s/p L femur ORIF:  Incision is healing well.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil 50mg QD, Haldol prn
   - contact [**Name (NI) 2509**] psychiatrist and adjust meds as above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-25**] 12:23 AM 75 mL/hour
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   18 Gauge - [**2138-11-23**] 05:04 PM
   Prophylaxis:
   DVT: lovenox, IVC filter
   Stress ulcer: H2 blocker
   VAP:
   Comments: bowel regimen, pain control with tramadol, toradol and
   lidocaine patch
   Communication:  Comments: patient and HCP [**Name (NI) **] [**Name (NI) 10413**]
   [**Telephone/Fax (1) 10665**]
   Code status: Full code
   Disposition: ICU for now, screening for return to rehab after
   infectious workup complete

2138-11-26 11:37:00 Physician Attending Progress Note
Chief Complaint: Fever
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2138-11-25**] 08:03 AM
   off left piv
 URINE CULTURE - At [**2138-11-25**] 08:03 AM
 EKG - At [**2138-11-25**] 08:40 PM
 STOOL CULTURE - At [**2138-11-25**] 10:01 PM
 FEVER - 103.2
F - [**2138-11-26**] 04:00 AM
   Patient with persistent fevers
   Patient returned to assist control overnight due to persistent and
   recurrent tachypnea
   Patient with increase in PSV this morning and patient with recurrent
   fever spike to 103.4
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-25**] 08:04 AM
   Cefipime - [**2138-11-26**] 08:09 AM
   Levofloxacin - [**2138-11-26**] 10:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-25**] 08:09 PM
   Lorazepam (Ativan) - [**2138-11-26**] 05:21 AM
   Enoxaparin (Lovenox) - [**2138-11-26**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2138-11-26**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 39.7
C (103.4
   HR: 78 (66 - 81) bpm
   BP: 114/54(68) {100/50(63) - 124/68(80)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
             Total In:
                                                                  4,565 mL
                                                                  1,133 mL
   PO:
             TF:
                                                                  1,810 mL
                                                                    848 mL
   IVF:
                                                                  2,620 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                  1,585 mL
   Urine:
                                                                  2,375 mL
                                                                  1,585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,190 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 420 (401 - 500) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 152
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: ///26/
   NIF: -15 cmH2O
   Ve: 11.1 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   213 K/uL
   120 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.2 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   28.4 %
   4.6 K/uL
        [image002.jpg]
                            [**2138-11-19**]  02:53 PM
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   5.2
   5.0
   4.6
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   28.6
   26.7
   28.4
   Plt
   279
   271
   241
   245
   247
   249
   212
   213
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   TropT
   0.03
   TCO2
   28
   27
   Glucose
   131
   120
   126
   155
   124
   115
   108
   120
   Other labs: PT / PTT / INR:13.4/35.4/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:43.0 %, Band:1.0 %,
   Lymph:37.0 %, Mono:5.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:430
   IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR--no significant change--mild obscuration of right
   hemidiaphragm
   Assessment and Plan
   51 yo male with history of MVC and quadriplegia subsequently with
   persistent ventilatory failure requiring PSV support for ventilation.
   He has had impressive and continued fevers despite antibiotic Rx and
   they remain a relatively solitary finding as hemodynamics are unchanged
   at the time of fever elevations.
   1)Fever
we do not have clear source, we do have 8 days of Rx for
   ventilator associated pneumonia.  We do have concern for drug fever at
   this time.  We have raised concern for alternative source of infection
   which we have yet to identify and will pursue D/C of antibiotics at
   this time and minimize all other offending medications.  Will have to
   follow cultures.
   -Will D/C antibiotics today at 8 days for HAP
   -Will pursue CT of chest/Abdomen
   -Will pursue MRI of spine in area of previous injury to evaluate for
   localized collection
   -TTE to look for possible endocarditis
   -Will pursue ID consultation if fevers persist and source unable to be
   found
   2)Respiratory Failure-
   _Will continue to trial PSV wean
   -Patient OOB to chair today with good effect
   -Will maintain with full support today with A/C and use bolus sedation
   for relief of patient discomfort or anxiety
 RESPIRATORY FAILURE, CHRONIC
 IMPAIRED SKIN INTEGRITY
 ANXIETY
 IMPAIRED PHYSICAL MOBILITY
 QUADRIPLEGIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-26**] 01:29 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   18 Gauge - [**2138-11-23**] 05:04 PM
   Prophylaxis:
   DVT: Lovenox and IVC filter
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2138-11-27 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2138-11-26**] 07:14 PM
 FEVER - 103.4
F - [**2138-11-26**] 10:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-25**] 08:04 AM
   Cefipime - [**2138-11-26**] 08:09 AM
   Levofloxacin - [**2138-11-26**] 10:21 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-26**] 08:32 PM
   Famotidine (Pepcid) - [**2138-11-26**] 08:32 PM
   Lorazepam (Ativan) - [**2138-11-27**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-27**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 39.2
C (102.5
   HR: 71 (62 - 79) bpm
   BP: 105/53(66) {99/48(60) - 121/65(78)} mmHg
   RR: 11 (10 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,496 mL
                                                                    538 mL
   PO:
                  TF:
                                                                  1,141 mL
                                                                    518 mL
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  4,220 mL
                                                                    330 mL
   Urine:
                                                                  4,220 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,724 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 526 (420 - 850) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 23 cmH2O
   SpO2: 98%
   ABG: ///26/
   NIF: -15 cmH2O
   Ve: 10.5 L/min
   Physical Examination
   General:  Pleasant man, lying in bed on ventilator
   Chest:  Clear  breath sounds anteriorly
   Cardiac:  Regular rate and rhythm; normal S1 and S2
   Abdomen:  Soft, distended, non-tender, G-tube in place
   Ext:  1+ edema throughout, left LE incision site healing well without
   erythema or fluctuance
    Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   9.5 g/dL
   135 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   22 mg/dL
   105 mEq/L
   139 mEq/L
   28.5 %
   4.9 K/uL
        [image002.jpg]
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   5.2
   5.0
   4.6
   4.9
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   28.6
   26.7
   28.4
   28.5
   Plt
   279
   271
   241
   245
   247
   249
   [**Telephone/Fax (3) 10769**]
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   TropT
   0.03
   TCO2
   27
   Glucose
   131
   120
   126
   155
   124
   115
   108
   120
   135
   Other labs: PT / PTT / INR:13.4/35.4/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:23/30, Alk Phos / T Bili:190/0.6,
   Amylase / Lipase:25/10, Differential-Neuts:43.0 %, Band:1.0 %,
   Lymph:37.0 %, Mono:5.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:430
   IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   CT A/P: Resolving hemoperitoneum, no acute source of infection (wet
   read)
   MRI C, T, L spine: read pending
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever, now with persistent fevers of unknown origin.
   .
   # FUO: Pt has been febrile for past 24 hours. Source of fever less
   likely related to spinal cord, but patient may have had substantial
   head trauma which may contribute to central fevers. Pt was afebrile
   prior to previous discharge, so cannot make this diagnosis of exclusion
   yet. Cannot rule out drug fever, and has been off antibiotics for 24
   hours. CT A/P did not reveal any sources. MRI with no gross
   abnormalities but read pending. TTE showed no vegetations. LFTs had
   been mildly elevated (alkphos and LDH) in past.
   - hold off abx and unecessary meds
   - repeat LFTs
   - consider liver biopsy if still elevated
   - consider ID consult
   - consider connective tissue disease work-up (ESR, CRP< [**Doctor First Name **], RF,
   cryoglobulin)
   - will continue to culture for high grade fevers once daily, would like
   48hrs neg prior to rehab transfer
   .
   # Respiratory failure:  Patient continues to fail PSV trials secondary
   to tachypnea, likely due to anxiety and poor inspiratory capacity.
   - cont Haldol as per psych consult
   - will  attempt to speak with outpatient psychiatrist and restart [**Doctor First Name 2509**]
   psych meds to minimize patient
s anxiety
   - continue AC for now
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain.  Likely depressive component to pain as well.
   - toradol, tramadol and lidocaine patch prn for now; will try to
   minimize narcotic usage (dilaudid, oxycodone)
   - social work consult
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   # s/p L femur ORIF:  Incision is healing well.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil 50mg QD, Haldol prn
   - contact [**Name (NI) 2509**] psychiatrist and adjust meds as above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-25**] 12:23 AM 75 mL/hour
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   18 Gauge - [**2138-11-23**] 05:04 PM
   Prophylaxis:
   DVT: lovenox, IVC filter
   Stress ulcer: H2 blocker
   VAP:
   Comments: bowel regimen, pain control with tramadol, toradol and
   lidocaine patch
   Communication:  Comments: patient and HCP [**Name (NI) **] [**Name (NI) 10413**]
   [**Telephone/Fax (1) 10665**]
   Code status: Full code
   Disposition: ICU for now, screening for return to rehab after
   infectious workup complete

2138-11-27 10:52:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2138-11-26**] 07:14 PM
 FEVER - 103.4
F - [**2138-11-26**] 10:00 AM
   -Patient with recurrent and persistent and significant fevers noted
   through to this morning
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-25**] 08:04 AM
   Cefipime - [**2138-11-26**] 08:09 AM
   Levofloxacin - [**2138-11-26**] 10:21 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-11-27**] 05:11 AM
   Famotidine (Pepcid) - [**2138-11-27**] 08:24 AM
   Enoxaparin (Lovenox) - [**2138-11-27**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Gastrointestinal: Abdominal pain, watery bowel movements
   Flowsheet Data as of  [**2138-11-27**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.3
C (102.7
   HR: 74 (62 - 78) bpm
   BP: 112/51(66) {99/48(60) - 121/65(78)} mmHg
   RR: 15 (10 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,496 mL
                                                                    814 mL
   PO:
                  TF:
                                                                  1,141 mL
                                                                    794 mL
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  4,220 mL
                                                                    410 mL
   Urine:
                                                                  4,220 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,724 mL
                                                                    404 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 690 (526 - 850) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 11.3 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Bowel sounds present, Tender: mild
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   215 K/uL
   135 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   22 mg/dL
   105 mEq/L
   139 mEq/L
   28.5 %
   4.9 K/uL
        [image002.jpg]
                            [**2138-11-19**]  06:38 PM
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
   WBC
   6.8
   8.2
   5.7
   4.1
   4.6
   5.2
   5.0
   4.6
   4.9
   Hct
   30.2
   28.4
   28.1
   27.6
   27.4
   28.6
   26.7
   28.4
   28.5
   Plt
   279
   271
   241
   245
   247
   249
   [**Telephone/Fax (3) 10769**]
   Cr
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   TropT
   0.03
   TCO2
   27
   Glucose
   131
   120
   126
   155
   124
   115
   108
   120
   135
   Other labs: PT / PTT / INR:13.4/35.4/1.1, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:39/55, Alk Phos / T Bili:159/0.3,
   Amylase / Lipase:25/10, Differential-Neuts:43.0 %, Band:1.0 %,
   Lymph:37.0 %, Mono:5.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.1 g/dL, LDH:311 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.3
   mg/dL
   Imaging: CT ABD--no focal collections.
   MRI-Pending--of spine
   Assessment and Plan
   51 yo patient wtih history of MVC and now with persistent ventilatory
   failure--this is in the setting of ongoing fever of unknown origin and
   with increased metabolic demand does have course complicated by
   signficant neuromuscular weakness with NIF persistently decreased.
   1)       RESPIRATORY FAILURE, CHRONIC
   -Will continue with PSV
   -Trial of trach mask intermittently as tolerated
   -Will need continued chest
   2)       FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
Persistent
   off antibiotics.  We have recent studies of
   -ECHO without vegetation
   -CT ABD->no evidence of focal collection
   -MRI of spine pending
   -Will continue to hold antibiotics at this time
   -Follow CBC with Diff
   -ID consult today to aid with further evaluation and treatment
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-26**] 11:22 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2138-11-28 08:08:00 Physician Resident Progress Note
Chief Complaint: Fevers
   24 Hour Events:
   - ID consult--> rec considering chest CT, repeating UA/cx, D/C haldol
   and famotidine, reviewing any imaging of hip
   - extremely anxious, looked at old psych info, seems to have longstand
   depression, treated with paroxetine and lamictal most recently. Started
   on standing seroquel instead of haldol, with ativan for prn.
   - continued to have clear gel-like secretions from rectum, sent for cx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-25**] 08:04 AM
   Cefipime - [**2138-11-26**] 08:09 AM
   Levofloxacin - [**2138-11-26**] 10:21 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-27**] 08:24 AM
   Enoxaparin (Lovenox) - [**2138-11-27**] 08:24 AM
   Lorazepam (Ativan) - [**2138-11-28**] 12:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-28**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39.9
C (103.9
   Tcurrent: 39.4
C (103
   HR: 71 (70 - 83) bpm
   BP: 110/55(67) {107/50(63) - 123/62(76)} mmHg
   RR: 31 (13 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,819 mL
                                                                    151 mL
   PO:
                  TF:
                                                                  1,799 mL
                                                                    151 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    800 mL
   Urine:
                                                                  1,565 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    254 mL
                                                                   -649 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 377 (326 - 590) mL
   PS : 8 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 12.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   9.5 g/dL
   129 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   21 mg/dL
   104 mEq/L
   139 mEq/L
   28.0 %
   3.9 K/uL
         [image002.jpg]
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
   WBC
   8.2
   5.7
   4.1
   4.6
   5.2
   5.0
   4.6
   4.9
   3.9
   Hct
   28.4
   28.1
   27.6
   27.4
   28.6
   26.7
   28.4
   28.5
   28.0
   Plt
   271
   241
   245
   247
   249
   212
   [**Telephone/Fax (3) 10791**]
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   TCO2
   27
   Glucose
   120
   126
   155
   124
   115
   108
   120
   135
   129
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:35/45, Alk Phos / T Bili:135/0.3,
   Amylase / Lipase:25/10, Differential-Neuts:40.0 %, Band:1.0 %,
   Lymph:44.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:269 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.4
   mg/dL
   Microbiology: Stool studies:  Pending
   Urine culture: Pending
   Blood culture: Pending
   HIV: Pending
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever, now with persistent fevers of unknown origin.
   .
   # FUO:  Patient continues to be febrile, with Tmax at 103.9.  Still
   unclear source.  Possibilities include: drug fever, pulmonary source
   (though we were treating with broad spectrum abx), abscess.  Central
   source unlikely as this is a spinal cord injury, and there is no known
   insult to the brain.  CT A/P did not reveal any sources. MRI with no
   gross abnormalities but read pending. TTE showed no vegetations. LFTs
   had been mildly elevated (alkphos and LDH) in past and have trended
   down, no focal RUQ pain.
   - hold off abx and unecessary meds
   - Appreciate ID input
   - Follow up on urine, blood, stool cultures
   - Follow up HIV
   - Add Motrin for fevers
   - Curbside neuro re: central fevers
   - will continue to culture for high grade fevers once daily, would like
   48hrs neg prior to rehab transfer
   .
   # Respiratory failure:  Will likely fail extubation due to tachypnea
   [**12-30**] poor inspiratory effort and muscle weakness. NIF low.
   - continue AC with setting for pt comfort
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain.  Likely depressive component to pain as well.
   - toradol, tramadol and lidocaine patch prn for now; will try to
   minimize narcotic usage (dilaudid, oxycodone)
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   - PT consult
   .
   # s/p L femur ORIF:  Incision is healing well.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Bipolar disorder:  His medication regimen prior to previous admission
   included paxil, lamictal, xanax, and ritalin.  Currently he is on
   paxil.  He is unsure about his medication regimen.
   - continue paxil 50mg QD, seroquel QHS.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-25**] 12:23 AM 75 mL/hour
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2138-11-19**] 06:52 PM
   18 Gauge - [**2138-11-23**] 05:04 PM
   Prophylaxis:
   DVT: lovenox, IVC filter
   Stress ulcer: H2 blocker
   VAP:
   Comments: bowel regimen, pain control with tramadol, toradol and
   lidocaine patch
   Communication:  Comments: patient and HCP [**Name (NI) **] [**Name (NI) 10413**]
   [**Telephone/Fax (1) 10665**]
   Code status: Full code
   Disposition: ICU for now, screening for return to rehab after
   infectious workup complete

2138-11-28 12:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.  Tolerating IPS mode (5 cm
   H2O).
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2138-11-26**] 08:09 AM
   Levofloxacin - [**2138-11-26**] 10:21 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-28**] 08:30 AM
   Lorazepam (Ativan) - [**2138-11-28**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-11-28**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39.9
C (103.9
   Tcurrent: 37.7
C (99.9
   HR: 68 (68 - 83) bpm
   BP: 94/45(57) {91/45(55) - 123/62(76)} mmHg
   RR: 26 (26 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.9 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,820 mL
                                                                    888 mL
   PO:
                  TF:
                                                                  1,800 mL
                                                                    888 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                  1,175 mL
   Urine:
                                                                  1,565 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 392 (326 - 590) mL
   PS : 5 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheotomy tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Able to vocalize and move
   head/eyes/mouth.
   Labs / Radiology
   9.5 g/dL
   195 K/uL
   129 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   21 mg/dL
   104 mEq/L
   139 mEq/L
   28.0 %
   3.9 K/uL
        [image002.jpg]
                            [**2138-11-20**]  04:21 AM
                            [**2138-11-20**]  01:17 PM
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
   WBC
   8.2
   5.7
   4.1
   4.6
   5.2
   5.0
   4.6
   4.9
   3.9
   Hct
   28.4
   28.1
   27.6
   27.4
   28.6
   26.7
   28.4
   28.5
   28.0
   Plt
   271
   241
   245
   247
   249
   212
   [**Telephone/Fax (3) 10791**]
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   TCO2
   27
   Glucose
   120
   126
   155
   124
   115
   108
   120
   135
   129
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:35/45, Alk Phos / T Bili:135/0.3,
   Amylase / Lipase:25/10, Differential-Neuts:40.0 %, Band:1.0 %,
   Lymph:44.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:269 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   51 yom chronic respiratory failure s/p MVA, now with fever and
   pulmonary infiltrates.
   RESPIRATORY FAILURE, CHRONIC
 Improved, now on minimal ventilator
   settings.  Pulmonary infiltrates likely account for recent
   decompensation.  Continue mechanical ventilation.  Hope to work towards
   trach collar trials as clinical improvement continues.
   PULMONARY INFILATRATES -- attributed to VAP.  Completed empirical
   antimicrobials.  Monitor off antimicrobials, with low threshold for
   resuming antimicribials and diagnostic bronchoscopy in the event of
   clinical decompensation.
   FEVER -- persistent.  [**Month (only) 8**] be component of infection (i.e. pneumonia),
   but may also be component of drug-related fever.  Monitor closely.
   Eleiminate non-essential medications.
   PULMONARY EMBOLI -- s/p IVC filter placement.
   NUTRITIONAL SUPPORT -- TF via PEG.
   HEMATURIA -- likely trauma from foley.  Clearling/improving.
   Monitor.
   h/o BIPOLAR DISORDER -- Paxil, serequil.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-28**] 01:56 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes

2138-11-29 07:05:00 Physician Resident Progress Note
Chief Complaint: fever, hypoxia
   24 Hour Events:
 FEVER - 102.9
C - [**2138-11-29**] 04:00 AM
   sinus bradycardic to 40s yesterday, QT prolongation (480) -> d/c'd
   seroquel
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2138-11-26**] 08:09 AM
   Levofloxacin - [**2138-11-26**] 10:21 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-28**] 08:30 AM
   Lorazepam (Ativan) - [**2138-11-29**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   c/o upper back pain, unchanged from previous; did feel febrile
   overnight
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2138-11-29**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 39.4
C (102.9
   HR: 71 (49 - 78) bpm
   BP: 95/46(57) {87/45(55) - 112/64(75)} mmHg
   RR: 27 (13 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,817 mL
                                                                    525 mL
   PO:
                  TF:
                                                                  1,817 mL
                                                                    525 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,885 mL
                                                                    720 mL
   Urine:
                                                                  2,885 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,068 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 377 (377 - 717) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy in place
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Normal, able to wiggle toes bilaterally,
   left patellar reflex = 0
   Labs / Radiology
   200 K/uL
   9.5 g/dL
   122 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   24 mg/dL
   107 mEq/L
   142 mEq/L
   29.4 %
   3.2 K/uL
        [image002.jpg]
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
   WBC
   5.7
   4.1
   4.6
   5.2
   5.0
   4.6
   4.9
   3.9
   3.2
   Hct
   28.1
   27.6
   27.4
   28.6
   26.7
   28.4
   28.5
   28.0
   29.4
   Plt
   241
   245
   247
   249
   [**Telephone/Fax (3) 10803**]
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   Glucose
   126
   155
   124
   115
   108
   120
   135
   129
   153
   122
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:35/45, Alk Phos / T Bili:135/0.3,
   Amylase / Lipase:25/10, Differential-Neuts:40.0 %, Band:1.0 %,
   Lymph:44.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:269 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever, now with persistent fevers of unknown origin.
   .
   # FUO:  Patient continues to be febrile, with Tmax at 102.9 early this
   morning.  Briefly afebrile yesterday.  Still unclear source.
   Possibilities include: drug fever, pulmonary source (though we were
   treating with broad spectrum abx), abscess.  Central source unlikely as
   this is a spinal cord injury, and there is no known insult to the
   brain.  CT A/P did not reveal any sources. MRI with no gross
   abnormalities but read pending. TTE showed no vegetations. LFTs had
   been mildly elevated (alkphos and LDH) in past and have trended down,
   no focal RUQ pain.  WBC trending down, now mildly leukopenic -> ?
   viral.
   - cont to hold abx and unecessary meds, repeat blood cx today, consider
   fungal cultures, glucan, galactomannan
   - Appreciate ID input -> respiked today, consider LP
   - Follow up on urine, blood, stool cultures
   - Follow up HIV, CMV, EBV
   - Add Motrin for fevers
   - Curbside neuro re: central fevers
   .
   # Respiratory failure:  Will likely fail extubation due to tachypnea
   [**12-30**] poor inspiratory effort and muscle weakness. NIF low.
   - continue AC with setting for pt comfort
   - cont PSV, consider trial of trach mask
   - f/u today
s CXR
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain.  Likely depressive component to pain as well.
   - toradol, tramadol and lidocaine patch prn for now; will try to
   minimize narcotic usage (dilaudid, oxycodone)
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   - PT consult
   .
   # s/p L femur ORIF:  Incision is healing well.
   - ortho has been consulted for wound eval; do not think this is source
   of infection
   - cont to monitor
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Psychiatric history:  Patient has been labeled as having bipolar
   disorder in the past, but psychiatry does not believe this is his true
   diagnosis.  Unclear medication regimen in past.
   - Continue paxil 50mg QD
   - Haldol changed to seroquel for fear of drug fever, but QT is
   prolonged yesterday at 480 and seroquel was stopped.  Will consider
   restarting haldol.
   Barriers to extubation:  Anxiety, muscle weakness.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-29**] 04:12 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-11-29 12:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Afebrile throughout day yesterday, but fever spike overnight/early AM.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-11-29**] 04:08 AM
   Hydromorphone (Dilaudid) - [**2138-11-29**] 07:00 AM
   Enoxaparin (Lovenox) - [**2138-11-29**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-11-29**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39.4
C (102.9
   Tcurrent: 39.2
C (102.6
   HR: 76 (49 - 76) bpm
   BP: 105/51(64) {87/45(56) - 112/64(75)} mmHg
   RR: 34 (13 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,817 mL
                                                                    889 mL
   PO:
                  TF:
                                                                  1,817 mL
                                                                    889 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,885 mL
                                                                    900 mL
   Urine:
                                                                  2,885 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,068 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 329 (329 - 717) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful (head), No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   200 K/uL
   122 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.3 mEq/L
   24 mg/dL
   107 mEq/L
   142 mEq/L
   29.4 %
   3.2 K/uL
        [image002.jpg]
                            [**2138-11-21**]  04:13 AM
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
   WBC
   5.7
   4.1
   4.6
   5.2
   5.0
   4.6
   4.9
   3.9
   3.2
   Hct
   28.1
   27.6
   27.4
   28.6
   26.7
   28.4
   28.5
   28.0
   29.4
   Plt
   241
   245
   247
   249
   [**Telephone/Fax (3) 10803**]
   Cr
   0.5
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   Glucose
   126
   155
   124
   115
   108
   120
   135
   129
   153
   122
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:35/45, Alk Phos / T Bili:135/0.3,
   Amylase / Lipase:25/10, Differential-Neuts:40.0 %, Band:1.0 %,
   Lymph:44.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:269 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   51 yom chronic respiratory failure s/p MVA, now with fever and
   pulmonary infiltrates.
   RESPIRATORY FAILURE, CHRONIC
 Improved, now on minimal ventilator
   settings.  Pulmonary infiltrates likely account for recent
   decompensation.  Continue mechanical ventilation.  Hope to work towards
   trach collar trials as clinical improvement continues.
   PULMONARY INFILATRATES -- attributed to VAP.  Completed empirical
   antimicrobials.  Monitor off antimicrobials, with low threshold for
   resuming antimicribials and diagnostic bronchoscopy in the event of
   clinical decompensation.
   FEVER -- persistent.  [**Month (only) 8**] be component of infection (i.e. pneumonia),
   but may also be component of drug-related fever.  Unclear whether
   related to spinal cord trauma.  Monitor closely.  Eleiminate
   non-essential medications.
   FLUIDS -- may be hypovolemic, now with insensible losses (fever).  [**Month (only) 8**]
   require iv fluid boluses if urine out put declines.
   PULMONARY EMBOLI -- right DVT --> s/p IVC filter placement.
   NUTRITIONAL SUPPORT -- TF via PEG at goal.
   HEMATURIA -- likely trauma from foley.  Clearling/improving.
   Monitor.
   h/o BIPOLAR DISORDER -- Paxil, serequil.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-29**] 04:12 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-11-30 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: --asked trauma if c3-c5 contusion can cause fevers,
   trauma said call NSG, NSG attending said no.
   --placed back on cooling blanket for temps 102
   24 Hour Events:
 FEVER - 102.7
C - [**2138-11-29**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-29**] 07:37 AM
   Lorazepam (Ativan) - [**2138-11-30**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-30**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.5
C (101.3
   HR: 70 (66 - 81) bpm
   BP: 108/58(70) {93/44(56) - 115/60(72)} mmHg
   RR: 26 (22 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,916 mL
                                                                    607 mL
   PO:
                  TF:
                                                                  1,816 mL
                                                                    507 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    530 mL
   Urine:
                                                                  1,950 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -34 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (329 - 658) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy in place
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x 3,
   Movement: Not assessed, Tone: Normal, able to wiggle toes bilaterally,
   left patellar reflex = 0
   Labs / Radiology
   193 K/uL
   9.5 g/dL
   115 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.6 mEq/L
   22 mg/dL
   102 mEq/L
   137 mEq/L
   28.9 %
   4.7 K/uL
        [image002.jpg]
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
                             [**2138-11-30**]  04:18 AM
   WBC
   4.1
   4.6
   5.2
   5.0
   4.6
   4.9
   3.9
   3.2
   4.7
   Hct
   27.6
   27.4
   28.6
   26.7
   28.4
   28.5
   28.0
   29.4
   28.9
   Plt
   245
   247
   249
   [**Telephone/Fax (2) **]00
   193
   Cr
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   155
   124
   115
   108
   120
   135
   129
   153
   122
   115
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:35/45, Alk Phos / T Bili:135/0.3,
   Amylase / Lipase:25/10, Differential-Neuts:40.0 %, Band:1.0 %,
   Lymph:44.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:269 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever, now with persistent fevers of unknown origin.
   .
   # FUO:  Patient continues to be febrile, still unclear source.
   Possibilities include: drug fever, pulmonary source (though we were
   treating with broad spectrum abx), abscess.  Central source unlikely as
   this is a spinal cord injury, and there is no known insult to the
   brain.  CT A/P did not reveal any sources. MRI with no gross
   abnormalities but read pending. TTE showed no vegetations. LFTs had
   been mildly elevated (alkphos and LDH) in past and have trended down,
   no focal RUQ pain.  WBC trending down, now mildly leukopenic -> ?
   viral.
   - cont to hold abx and unecessary meds
   - Appreciate ID input
   - Follow up on urine, blood, stool cultures
   - Follow up HIV, CMV, EBV
   - Motrin for fevers
   .
   # Respiratory failure:  Will likely fail extubation due to tachypnea
   [**12-30**] poor inspiratory effort and muscle weakness. NIF low.
   - continue AC with setting for pt comfort
   - cont PSV, consider trial of trach mask
   - f/u today
s CXR
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain.  Likely depressive component to pain as well.
   - toradol, tramadol and lidocaine patch prn for now; will try to
   minimize narcotic usage (dilaudid, oxycodone)
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   - PT consult
   .
   # s/p L femur ORIF:  Incision is healing well.
   - cont to monitor
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Psychiatric history:  Patient has been labeled as having bipolar
   disorder in the past, but psychiatry does not believe this is his true
   diagnosis.
   - Continue paxil 50mg QD
   - consider restarting haldol
   Barriers to extubation:  Anxiety, muscle weakness.
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: none (holding for ?drug fevers)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2138-11-30 13:11:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Persistent fevers
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-11-30**] 04:52 AM
   Enoxaparin (Lovenox) - [**2138-11-30**] 08:46 AM
   Hydromorphone (Dilaudid) - [**2138-11-30**] 12:12 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-11-30**] 01:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.3
C (102.7
   HR: 76 (66 - 81) bpm
   BP: 111/56(68) {93/44(56) - 115/60(72)} mmHg
   RR: 36 (22 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,921 mL
                                                                  1,064 mL
   PO:
                  TF:
                                                                  1,821 mL
                                                                    964 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                  1,250 mL
   Urine:
                                                                  1,950 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -29 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (374 - 658) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   193 K/uL
   115 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.6 mEq/L
   22 mg/dL
   102 mEq/L
   137 mEq/L
   28.9 %
   4.7 K/uL
        [image002.jpg]
                            [**2138-11-22**]  04:32 AM
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
                             [**2138-11-30**]  04:18 AM
   WBC
   4.1
   4.6
   5.2
   5.0
   4.6
   4.9
   3.9
   3.2
   4.7
   Hct
   27.6
   27.4
   28.6
   26.7
   28.4
   28.5
   28.0
   29.4
   28.9
   Plt
   245
   247
   249
   [**Telephone/Fax (2) **]00
   193
   Cr
   0.5
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   Glucose
   155
   124
   115
   108
   120
   135
   129
   153
   122
   115
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:35/45, Alk Phos / T Bili:135/0.3,
   Amylase / Lipase:25/10, Differential-Neuts:40.0 %, Band:1.0 %,
   Lymph:44.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:269 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   51 yom chronic respiratory failure s/p MVA, now with fever and
   pulmonary infiltrates.
   RESPIRATORY FAILURE, CHRONIC
 Improved, now on minimal ventilator
   settings.  Pulmonary infiltrates likely account for recent
   decompensation.  Continue mechanical ventilation.  Hope to work towards
   trach collar trials as clinical improvement continues.
   PULMONARY INFILATRATES -- attributed to VAP.  Completed empirical
   antimicrobials.  Monitor off antimicrobials, with low threshold for
   resuming antimicribials and diagnostic bronchoscopy in the event of
   clinical decompensation.
   FEVER -- persistent.  [**Month (only) 8**] be component of infection (i.e. pneumonia),
   but may also be component of drug-related fever.  Unclear whether
   related to spinal cord trauma.  Monitor closely.  Eleiminate
   non-essential medications.
   SPINAL CORD INJURY -- etiology of quadraplegia.  WIll require
   rehabilitation.
   FLUIDS -- may be hypovolemic, now with insensible losses (fever).  [**Month (only) 8**]
   require iv fluid boluses if urine out put declines.
   PULMONARY EMBOLI -- right DVT --> s/p IVC filter placement.
   NUTRITIONAL SUPPORT -- TF via PEG at goal.
   HEMATURIA -- likely trauma from foley.  Clearling/improving.
   Monitor.
   h/o BIPOLAR DISORDER -- Paxil, serequil.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-30**] 06:39 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-12-01 07:05:00 Physician Resident Progress Note
Chief Complaint: fever, hypoxia
   24 Hour Events:
 FEVER - 104.5
C - [**2138-11-30**] 08:00 PM
   - still having fevers to >103
   - ID recs repeat sputum cx, consider nuclear study
   - considering chest CT
   - consider further eval of hip prosthesis
   - having cuff leak from trach, trach exchanged by surgery moonlighter
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-11-30**] 08:46 AM
   Hydromorphone (Dilaudid) - [**2138-11-30**] 04:20 PM
   Lorazepam (Ativan) - [**2138-12-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   c/o upper abdominal pain, persistent fever, persistent upper back pain
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Eyes:  Blurry vision
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2138-12-1**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 40.3
C (104.5
   Tcurrent: 40.1
C (104.2
   HR: 83 (73 - 91) bpm
   BP: 105/59(70) {99/50(61) - 120/64(76)} mmHg
   RR: 22 (18 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  1,911 mL
                                                                    523 mL
   PO:
                  TF:
                                                                  1,811 mL
                                                                    523 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,370 mL
                                                                    410 mL
   Urine:
                                                                  2,370 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -459 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 481 (300 - 661) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: epigastrium, no
   rebound/guarding
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Paralyzed, Tone: Not assessed, able to move toes
   Labs / Radiology
   198 K/uL
   9.9 g/dL
   136 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   23 mg/dL
   97 mEq/L
   134 mEq/L
   29.3 %
   4.3 K/uL
        [image002.jpg]
                            [**2138-11-23**]  04:04 AM
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
                             [**2138-11-30**]  04:18 AM
                             [**2138-12-1**]  04:30 AM
   WBC
   4.6
   5.2
   5.0
   4.6
   4.9
   3.9
   3.2
   4.7
   4.3
   Hct
   27.4
   28.6
   26.7
   28.4
   28.5
   28.0
   29.4
   28.9
   29.3
   Plt
   247
   249
   212
   [**Telephone/Fax (2) 10849**]93
   198
   Cr
   0.6
   0.6
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   0.5
   Glucose
   124
   115
   108
   120
   135
   129
   153
   122
   115
   136
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:28/31, Alk Phos / T Bili:116/0.4,
   Amylase / Lipase:25/10, Differential-Neuts:55.2 %, Band:1.0 %,
   Lymph:36.6 %, Mono:6.5 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:259 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever, now with persistent fevers of unknown origin.
   .
   # FUO:  Patient continues to be febrile, still unclear source.
   Possibilities include: drug fever, pulmonary source (though we were
   treating with broad spectrum abx).  Central source unlikely as this is
   a spinal cord injury, and there is no known insult to the brain,
   corroborated by neurosurg.  CT A/P did not reveal any sources on [**11-26**].
   MRI spine (-). TTE showed no vegetations. LFTs had been mildly elevated
   (alkphos and LDH) in past and have trended down, no focal RUQ pain.
   WBC trending down, now mildly leukopenic -> ? viral.  Multiple viral
   studies pending
   - cont to hold abx and unecessary meds
   - Appreciate ID input
   - Follow up on urine, blood, stool cultures
   - Follow up HIV, CMV, EBV
   - Motrin for fevers
   - consider repeat CT abdomen, as pt newly symptomatic with epigastric
   abd. pain
   .
   # Respiratory failure:  Will likely fail extubation due to tachypnea
   [**12-30**] poor inspiratory effort and muscle weakness. NIF low.
   - cont PSV
   - AM CXR
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain.  Likely depressive component to pain as well.
   - toradol, tramadol prn for now; will try to minimize narcotic usage
   (dilaudid, oxycodone)
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   - PT consult
   .
   # s/p L femur ORIF:  Incision is healing well.   Less likely etiology
   of fever.
   - cont to monitor
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Psychiatric history:  Patient has been labeled as having bipolar
   disorder in the past, but psychiatry does not believe this is his true
   diagnosis.
   - Continue paxil 50mg QD
   Barriers to extubation:  Anxiety, muscle weakness.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-30**] 07:53 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT:   enoxaparin
   Stress ulcer:   none -> holding due to possible drug fever
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-12-02 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - HIV (-), EBV (-), stool cultures (-), CMV pending
   - afebrile since A.M., cont to trend
   - tolerating PMV
   - I.D. signed off, not likely infectious etiology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-12-1**] 10:30 PM
   Hydromorphone (Dilaudid) - [**2138-12-2**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-12-2**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 37.3
C (99.2)
   Tcurrent: 37.3
C (99.2
   HR: 73 (65 - 85) bpm
   BP: 95/49(60) {83/46(55) - 113/64(74)} mmHg
   RR: 33 (18 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  2,120 mL
                                                                    638 mL
   PO:
                  TF:
                                                                  1,800 mL
                                                                    578 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,730 mL
                                                                    290 mL
   Urine:
                                                                  2,730 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -610 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 548) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: epigastrium, no
   rebound/guarding
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Paralyzed, Tone: Not assessed, able to move toes
   Labs / Radiology
   176 K/uL
   9.5 g/dL
   134 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   28 mg/dL
   102 mEq/L
   139 mEq/L
   29.3 %
   3.8 K/uL
        [image002.jpg]
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
                             [**2138-11-30**]  04:18 AM
                             [**2138-12-1**]  04:30 AM
                             [**2138-12-2**]  04:43 AM
   WBC
   5.2
   5.0
   4.6
   4.9
   3.9
   3.2
   4.7
   4.3
   3.8
   Hct
   28.6
   26.7
   28.4
   28.5
   28.0
   29.4
   28.9
   29.3
   29.3
   Plt
   249
   212
   213
   [**Telephone/Fax (3) **]
   193
   198
   176
   Cr
   0.6
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   0.5
   0.4
   Glucose
   115
   108
   120
   135
   129
   153
   122
   115
   136
   134
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:28/31, Alk Phos / T Bili:116/0.4,
   Amylase / Lipase:25/10, Differential-Neuts:55.2 %, Band:1.0 %,
   Lymph:36.6 %, Mono:6.5 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:259 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever, now with persistent fevers of unknown origin.
   .
   # FUO:  Patient continues to be febrile, still unclear source.
   Possibilities include: drug fever, pulmonary source (though we were
   treating with broad spectrum abx).  Central source unlikely as this is
   a spinal cord injury, and there is no known insult to the brain,
   corroborated by neurosurg.  CT A/P did not reveal any sources on [**11-26**].
   MRI spine (-). TTE showed no vegetations. LFTs had been mildly elevated
   (alkphos and LDH) in past and have trended down, no focal RUQ pain.
   WBC trending down, now mildly leukopenic -> ? viral.
   - cont to hold abx and unecessary meds
   - ID signed off
 doesn
t think this is infectious
   - Follow up on urine, blood, stool cultures
 All negative
   - Follow up HIV(-), CMV-P, EBV(-)
   .
   # Respiratory failure:  Will likely fail extubation due to tachypnea
   [**12-30**] poor inspiratory effort and muscle weakness. NIF low.
   - cont PSV
   - AM CXR
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain.  Likely depressive component to pain as well.
   - toradol, tramadol prn for now; will try to minimize narcotic usage
   (dilaudid, oxycodone)
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   - PT consult
   .
   # s/p L femur ORIF:  Incision is healing well.   Less likely etiology
   of fever.
   - cont to monitor
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Psychiatric history:  Patient has been labeled as having bipolar
   disorder in the past, but psychiatry does not believe this is his true
   diagnosis.
   - Continue paxil 50mg QD
   Barriers to extubation:  Anxiety, muscle weakness.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-30**] 07:53 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT:   enoxaparin
   Stress ulcer:   none -> holding due to possible drug fever
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: return to [**Hospital1 **]

2138-12-02 11:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On PSM valve much of day. Back on vent overnight
   24 Hour Events:
 FEVER - 104.2
C - [**2138-12-1**] 08:00 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2138-12-2**] 08:00 AM
   Lorazepam (Ativan) - [**2138-12-2**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias, Quadreplegia
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-12-2**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 75 (65 - 79) bpm
   BP: 104/52(64) {83/46(55) - 109/63(73)} mmHg
   RR: 25 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  2,120 mL
                                                                  1,019 mL
   PO:
                  TF:
                                                                  1,800 mL
                                                                    879 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,730 mL
                                                                    490 mL
   Urine:
                                                                  2,730 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -610 mL
                                                                    529 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 561 (360 - 561) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trache
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered insp, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand, Quad - min movement
   of toes
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   176 K/uL
   134 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   28 mg/dL
   102 mEq/L
   139 mEq/L
   29.3 %
   3.8 K/uL
        [image002.jpg]
                            [**2138-11-24**]  03:45 AM
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
                             [**2138-11-30**]  04:18 AM
                             [**2138-12-1**]  04:30 AM
                             [**2138-12-2**]  04:43 AM
   WBC
   5.2
   5.0
   4.6
   4.9
   3.9
   3.2
   4.7
   4.3
   3.8
   Hct
   28.6
   26.7
   28.4
   28.5
   28.0
   29.4
   28.9
   29.3
   29.3
   Plt
   249
   212
   213
   [**Telephone/Fax (3) **]
   193
   198
   176
   Cr
   0.6
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   0.5
   0.4
   Glucose
   115
   108
   120
   135
   129
   153
   122
   115
   136
   134
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:28/31, Alk Phos / T Bili:116/0.4,
   Amylase / Lipase:25/10, Differential-Neuts:55.2 %, Band:1.0 %,
   Lymph:36.6 %, Mono:6.5 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:259 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 IMPAIRED SKIN INTEGRITY
 ANXIETY
 IMPAIRED PHYSICAL MOBILITY
 QUADRIPLEGIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Fever remains present and undiagnosed. general agreement this is not
   infectious but we have been unable to find a cause. Will eventually
   need full FUO w/u but can hold off for some period. He tolerates the
   fevers v well. We have made substantial progress at weaning and off
   vent all day/ on at night yesterday
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2138-12-03 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-12-3**] 05:00 AM
 FEVER - 103.2
F - [**2138-12-2**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2138-12-2**] 11:00 PM
   Lorazepam (Ativan) - [**2138-12-3**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-12-3**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.3
C (101
   HR: 66 (66 - 79) bpm
   BP: 96/49(60) {92/47(58) - 106/56(67)} mmHg
   RR: 27 (15 - 45) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  2,005 mL
                                                                    591 mL
   PO:
                  TF:
                                                                  1,805 mL
                                                                    531 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    385 mL
   Urine:
                                                                  1,025 mL
                                                                    375 mL
   NG:
   10 mL
   Stool:
   Drains:
   Balance:
                                                                    980 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 561 (561 - 561) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: epigastrium, no
   rebound/guarding
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Paralyzed, Tone: Not assessed, able to move toes
   Labs / Radiology
   177 K/uL
   9.3 g/dL
   146 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   28 mg/dL
   105 mEq/L
   140 mEq/L
   28.3 %
   4.0 K/uL
        [image002.jpg]
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
                             [**2138-11-30**]  04:18 AM
                             [**2138-12-1**]  04:30 AM
                             [**2138-12-2**]  04:43 AM
                             [**2138-12-3**]  04:01 AM
   WBC
   5.0
   4.6
   4.9
   3.9
   3.2
   4.7
   4.3
   3.8
   4.0
   Hct
   26.7
   28.4
   28.5
   28.0
   29.4
   28.9
   29.3
   29.3
   28.3
   Plt
   [**Telephone/Fax (3) **]95
   200
   193
   198
   176
   177
   Cr
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   0.5
   0.4
   0.5
   Glucose
   108
   120
   135
   129
   153
   122
   115
   136
   134
   146
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:28/31, Alk Phos / T Bili:116/0.4,
   Amylase / Lipase:25/10, Differential-Neuts:55.2 %, Band:1.0 %,
   Lymph:36.6 %, Mono:6.5 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:259 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   Assessment and Plan
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever, now with persistent fevers of unknown origin.
   .
   # FUO:  Patient continues to be febrile, almost certainly not
   infectious.  Possibilities include drug fever or less likely
   rheumatological condition. ID has signed off.
   - cont to hold abx and unecessary meds
   - consider continued outpatient work-up ie rheum
   .
   # Respiratory failure:  Will likely fail extubation due to tachypnea
   [**12-30**] poor inspiratory effort and muscle weakness. NIF low.
   - cont PSV and valve as tolerated
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain.  Likely depressive component to pain as well.
   - toradol, tramadol prn
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI (in about 2 weeks)
   - PT consult
   .
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Psychiatric history:  Patient has been labeled as having bipolar
   disorder in the past, but psychiatry does not believe this is his true
   diagnosis.
   - Continue paxil 50mg QD
   Barriers to extubation:  Anxiety, muscle weakness.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-30**] 07:53 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT:   enoxaparin
   Stress ulcer:   none -> holding due to possible drug fever
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: return to [**Hospital1 **]

2138-12-03 12:12:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Comfortable. Fevers persist. Long period on trache collar
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-12-3**] 05:00 AM
 FEVER - 103.2
F - [**2138-12-2**] 12:00 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2138-12-2**] 11:00 PM
   Lorazepam (Ativan) - [**2138-12-3**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, trache
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG to J tube
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure,
   Quad
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-12-3**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.6
C (99.6
   HR: 64 (64 - 78) bpm
   BP: 92/47(58) {92/47(58) - 106/56(67)} mmHg
   RR: 29 (24 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  2,005 mL
                                                                  1,113 mL
   PO:
                  TF:
                                                                  1,805 mL
                                                                    903 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    385 mL
   Urine:
                                                                  1,025 mL
                                                                    375 mL
   NG:
   10 mL
   Stool:
   Drains:
   Balance:
                                                                    980 mL
                                                                    728 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trache
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand, Quad
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, No(t) Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   177 K/uL
   146 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   28 mg/dL
   105 mEq/L
   140 mEq/L
   28.3 %
   4.0 K/uL
        [image002.jpg]
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
                             [**2138-11-30**]  04:18 AM
                             [**2138-12-1**]  04:30 AM
                             [**2138-12-2**]  04:43 AM
                             [**2138-12-3**]  04:01 AM
   WBC
   5.0
   4.6
   4.9
   3.9
   3.2
   4.7
   4.3
   3.8
   4.0
   Hct
   26.7
   28.4
   28.5
   28.0
   29.4
   28.9
   29.3
   29.3
   28.3
   Plt
   [**Telephone/Fax (3) **]95
   200
   193
   198
   176
   177
   Cr
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   0.5
   0.4
   0.5
   Glucose
   108
   120
   135
   129
   153
   122
   115
   136
   134
   146
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:28/31, Alk Phos / T Bili:116/0.4,
   Amylase / Lipase:25/10, Differential-Neuts:55.2 %, Band:1.0 %,
   Lymph:36.6 %, Mono:6.5 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:259 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 IMPAIRED SKIN INTEGRITY
 ANXIETY
 IMPAIRED PHYSICAL MOBILITY
 QUADRIPLEGIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Fevers persist w/o explanation. Making progress with weaning gradually
   - cough is still compromised but no evidence of PNA. If fevers persist
   will eventually need full [**Doctor First Name 10894**] workup.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-12-3**] 12:52 AM 75 mL/hour
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2138-12-2**] 05:06 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2138-12-04 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   none
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2138-12-3**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2138-12-3**] 11:30 PM
   Lorazepam (Ativan) - [**2138-12-3**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-12-4**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**40**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.6
   HR: 61 (56 - 69) bpm
   BP: 90/51(60) {86/46(56) - 107/62(73)} mmHg
   RR: 23 (14 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 108.2 kg (admission): 109.3 kg
   Height: 73 Inch
                  Total In:
                                                                  2,106 mL
                                                                    540 mL
   PO:
                  TF:
                                                                  1,806 mL
                                                                    540 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    555 mL
   Urine:
                                                                  1,570 mL
                                                                    555 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                    516 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: epigastrium, no
   rebound/guarding
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Purposeful,
   Paralyzed, Tone: Not assessed, able to move toes
   Labs / Radiology
   177 K/uL
   9.3 g/dL
   146 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   28 mg/dL
   105 mEq/L
   140 mEq/L
   28.3 %
   4.0 K/uL
        [image002.jpg]
                            [**2138-11-25**]  05:33 AM
                            [**2138-11-26**]  03:58 AM
                            [**2138-11-27**]  03:59 AM
                             [**2138-11-28**]  05:07 AM
                             [**2138-11-28**]  04:39 PM
                             [**2138-11-29**]  03:30 AM
                             [**2138-11-30**]  04:18 AM
                             [**2138-12-1**]  04:30 AM
                             [**2138-12-2**]  04:43 AM
                             [**2138-12-3**]  04:01 AM
   WBC
   5.0
   4.6
   4.9
   3.9
   3.2
   4.7
   4.3
   3.8
   4.0
   Hct
   26.7
   28.4
   28.5
   28.0
   29.4
   28.9
   29.3
   29.3
   28.3
   Plt
   [**Telephone/Fax (3) **]95
   200
   193
   198
   176
   177
   Cr
   0.5
   0.4
   0.5
   0.5
   0.4
   0.5
   0.5
   0.5
   0.4
   0.5
   Glucose
   108
   120
   135
   129
   153
   122
   115
   136
   134
   146
   Other labs: PT / PTT / INR:14.3/32.9/1.2, CK / CKMB /
   Troponin-T:141/1/0.03, ALT / AST:28/31, Alk Phos / T Bili:116/0.4,
   Amylase / Lipase:25/10, Differential-Neuts:55.2 %, Band:1.0 %,
   Lymph:36.6 %, Mono:6.5 %, Eos:1.3 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, LDH:259 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 IMPAIRED SKIN INTEGRITY
 ANXIETY
 IMPAIRED PHYSICAL MOBILITY
 QUADRIPLEGIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   51 year-old man with recent C3-C5 cord contusion admitted with dyspnea,
   hypoxia, and fever, now with persistent fevers of unknown origin.
   .
   # FUO:  Patient continues to be febrile intermittently, almost
   certainly not infectious.  Possibilities include drug fever or less
   likely rheumatological condition. ID has signed off.
   - cont to hold abx and unecessary meds
   - f/u with ID for outpatient FUO workup
   .
   # Respiratory failure:  Will likely fail extubation due to tachypnea
   [**12-30**] poor inspiratory effort and muscle weakness. NIF low.
   - cont PSV and valve as tolerated
   .
   # Pain:  Patient complains of intermittent headache, back pain,
   shoulder pain.  Likely depressive component to pain as well.
   - toradol, tramadol prn
   .
   # s/p C3-5 contusion
   - cont [**Location (un) 408**] J c-spine collar
   - to follow-up with neurosurgery as an outpatient 6 weeks after initial
   injury with repeat MRI
   - PT consult
   .
   # Hx of R common femoral DVT:  Lovenox, IVC filter
   # Psychiatric history:  Patient has been labeled as having bipolar
   disorder in the past, but psychiatry does not believe this is his true
   diagnosis.
   - Continue paxil 50mg QD
   Barriers to extubation:  Anxiety, muscle weakness
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2138-11-30**] 07:53 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-11-27**] 12:49 PM
   Prophylaxis:
   DVT:   enoxaparin
   Stress ulcer:   none -> holding due to possible drug fever
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: return to [**Hospital1 **] today
   ------ Protected Section ------
   Critical Care
   Present for the key portions of  the resident
s historyand exam. Agree
   with assessment and plan as outlined during multidisciplinary rounds
   this morning.  Feeling better. Unaware of fever. Peripheral strength
   unchanged.
   97.6    60      96/50
   Alert speaking
   Chest
 few crackles
   CV w/o m
   Abd
 PEG site clean
   WBC stable at 4.0
   Plan to transfer to Rehab for PT/OT. Will need f/u with Nsurg and may
   need FUO w/u if fever continues.
   Time spent  30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2138-12-4**] 09:07 ------